### PR TITLE
Add Erdős Problem 231 (abelian squares in strings of length 2^k − 1), link the formal disproof

### LINKED ISSUE #6142: Erdős Problem 231
### What is the Erdős problem?

https://www.erdosproblems.com/231

Let $S$ be a string of length $2^k-1$ formed from an alphabet of $k$ characters. Must $S$ contain an abelian square: two consecutive blocks $x$ and $y$ such that $y$ is a permutation of $x$?

Status: disproved (Lean). For $k \geq 4$ the answer is negative by Keränen's infinite abelian-square-free word on $4$ letters; as literally stated it is negative for every $k \geq 2$ (the words $121$ and $1213121$). A formal disproof exists (Axiom Math, via plby/lean-proofs `Erdos231.not_erdos_231`). The $2^k$ version (which is presumably what was meant) holds for $k = 2, 3$ and fails for $k \geq 4$, and can be settled by `decide`.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6142.

### What changed
Adds `FormalConjectures/ErdosProblems/231.lean`:
- `ContainsAbelianSquare S` (two consecutive nonempty blocks `x ++ y <:+: S` with `x ~ y`), a decidable characterization `containsAbelianSquare_iff` and a `Decidable` instance.
- `erdos_231` (`research solved`, `answer(False)`): the statement as on the problem page (strings of length `2^k - 1` over `k` characters). Linked to plby/lean-proofs `Erdos231.not_erdos_231` (Axiom Math / AxiomProver, MIT), which exhibits a 15-letter abelian-square-free string over 4 letters. The docstring notes that the literal statement already fails for `k = 2, 3` (`121`, `1213121`).
- `erdos_231.variants.two_pow` (`answer(False)`, **proved**): the `2^k` version, refuted by `decide +kernel` on the page's example `1213121412132124`.
- `erdos_231.variants.two_pow_small` (**proved**): the `2^k` version holds for `k = 2, 3` (`decide +kernel` over all `2^4` and `3^8` strings; the latter needs `maxRecDepth 200000` and takes about a minute).

### How checked
- Rebuilt plby's files against this repo's Mathlib: `#print axioms Erdos231.not_erdos_231` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against `erdos_231` on top of a renamed copy, same axioms (plby's `IsAbelianSquare ((S.drop i).take len)` with `len = |x| + |y|`):

<details>
<summary>Bridge</summary>

```lean
theorem erdos_231_bridge : type_of% Erdos231.erdos_231 := by
  show False ↔ _
  simp only [false_iff]
  intro h
  apply Erdos231Plby.not_erdos_231
  intro k hk S hS
  obtain ⟨x, y, hx, hxy, s, t, rfl⟩ := h k hk S hS
  refine ⟨s.length, x.length + y.length, ?_, ?_, ?_⟩
  · have := List.length_pos_of_ne_nil hx
    have := hxy.length_eq
    omega
  · simp
  · refine ⟨x, y, hx, ?_, hxy.length_eq, hxy, ?_⟩
    · intro hy
      subst hy
      exact hx (List.perm_nil.1 hxy)
    · rw [List.append_assoc, List.drop_left, List.take_left' (by simp)]
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«231»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/231.lean [hunk 1]
```diff
@@ -0,0 +1,151 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/231.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
